US05958935
N4-Phenyl-N2-(3,4,5-trimethoxyphenyl)-2,4-pyrimidinediamine
A solution of N-phenyl-2-chloro-4-pyrimidineamine (1.83 g, 8.91 mmol) and 3,4,5-trimethoxyaniline (1.83 g, 10.0 mmol) in acetone (10 ml) and water (15 ml) containing concentrated hydrochloric acid (0.2 ml) was heated at reflux for 10 h. On cooling the acetone was removed under reduced pressure, and the reaction taken to pH10 with 4N NaOH and extracted with ethyl acetate (2×75 ml). The combined organic layers were dried (MgSO4), concentrated under reduced pressure and the residue crystallised from ethyl acetate to give the title compound (2.41 g) as a colourless solid m.p. 191°. δH (CDCl3) 8.04 (1H, d, J 5.8 Hz), 7.37-7.34 (4H, m), 7.16-7.10 (1H, m), 7.05 (1H, br s), 6.85 (2H, s), 6.68 (1H, br s), 6.16 (1H, d, J 5.8 Hz), 3.82 (3H, s) and 3.81 (6H, s). MS m/z 353 (M+H)+. The pyrimidineamine used as starting material was prepared by heating a solution of 2,4-dichloropyrimidine (4.0 g, 26.8 mmol), aniline (2.46 ml, 27.0 mmol) and triethylamine (4.3 ml, 30.0 mmol) in ethanol (50 ml) at reflux for 2 h. On cooling a white precipitate was collectd which was washed with cold ethanol (100 ml) and recrystallised from ethyl acetate to give the desired product (6.0 g) as a colourless solid m.p. 186°. MS/mz 206 (M+H)+.

reactant | N-phenyl-2-chloro-4-pyrimidineamine | 8.91 mmol, 1.83 g | C1(=CC=CC=C1)NC1=NC(=NC=C1)Cl | C10H8ClN3
reactant | 3,4,5-trimethoxyaniline | 10.0 mmol, 1.83 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 15 ml | O | H2O
product | N4-Phenyl-N2-(3,4,5-trimethoxyphenyl)-2,4-pyrimidinediamine | 2.41 g | C1(=CC=CC=C1)NC1=NC(=NC=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C19H20N4O3
